US09079890B2
To a solution of (S)—N-(3-(2,4-dimethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine (0.360 g, 0.656 mmol) in ethanol (25 mL) was added an aqueous 6N solution of HCl (2 mL). The reaction was heated at 80° C. for 2 hours, then cooled to ambient temperature, stirred for 30 minutes, then cooled to 0° C. Ether (25 mL) was slowly added to initiate precipitation/crystallization. The reaction was stirred 30 minutes, then filtered. The solids were washed with ether several times, then hexanes, and dried overnight under vacuum at 50° C. to afford (S)-1-(5-(3-(2,4-dimethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)ethane-1,2-diol hydrochloride (0.205 g, 0.406 mmol, 61.9% yield) as a light yellow powder/fine crystals. Mass Spectrum (apci) m/z=469.2 (M+H−HCl).

reactant | (S)—N-(3-(2,4-dimethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine | 0.656 mmol, 0.360 g | CC1=NC=CC(=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)NC1=NC(=NS1)[C@@H]1OC2(OC1)CCCCC2)C | C27H28N6O3S2
reactant | HCl | 2 mL | Cl | ClH
reactant | Ether | 25 mL | CCOCC | C4H10O
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | (S)-1-(5-(3-(2,4-dimethylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)ethane-1,2-diol hydrochloride | 0.406 mmol, 0.205 g, 61.9% yield | Cl.CC1=NC=CC(=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)NC1=NC(=NS1)[C@@H](CO)O)C | InChI=1S/C21H20N6O3S2.ClH/c1-12-6-8-22-13(2)18(12)30-16-9-14(31-17-5-3-4-7-23-17)10-24-20(16)26-21-25-19(27-32-21)15(29)11-28;/h3-10,15,28-29H,11H2,1-2H3,(H,24,25,26,27);1H/t15-;/m1./s1
